US07709483B2
(b) (2E)-3-Phenyl-2-propenimidamide
Cinnamonitrile (25.0 g, 194 mmol) was dissolved in EtOH (ethanol) (200 mL). The solution was cooled to 0° C. and HCl gas bubbled through the solution for 30 minutes. The solution was stirred at ambient temperature for 16 h and then concentrated under vacuum. The residue was dissolved in EtOH (100 mL), cooled to 0° C. and a solution of NH3/MeOH (7M, 69 mL, 484 mmol) was added dropwise through an addition funnel. Once added, the solution was allowed to warm to ambient temperature and the resulting NH4Cl was filtered off. The solution was concentrated under vacuum and the resulting white solid was used without further purification (26 g crude).

reactant | Cinnamonitrile | 194 mmol, 25.0 g | C(C=CC1=CC=CC=C1)#N | C9H7N
reactant | NH3 MeOH | 484 mmol, 7M, 69 mL | N.CO
solvent | EtOH | 200 mL | CCO | C2H6O
product | (2E)-3-Phenyl-2-propenimidamide | C1(=CC=CC=C1)/C=C/C(N)=N | C9H10N2
